US05929298
A solution of 6 grams of 1-vinylcyclooctanol and 50 mg of MTO in 30 ml of benzene was refluxed 18 hours, cooled, washed with aq. potassium carbonate, dried, stripped of solvent and distilled (82-85 deg C./25 mm Hg) to give 3.55 grams of 1-vinylcyclooctene judged to be of 95% purity of NMR analysis; the only impurity was cyclooctanone left over from preparation of the vinyl carbinol.

reactant | 1-vinylcyclooctanol | 6 grams | C(=C)C1(CCCCCCC1)O | C10H18O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-vinylcyclooctene | 3.55 grams | C(=C)C1=CCCCCCC1 | C10H16
